US07297708B2
2-Bromo-1-(2,4-dichloro-phenyl)-propane-1-one (28.2 mg, 0.1 mmol), (1-(2,4-Dichloro-phenyl)-cyclopropanecarboxamidine (22.9 mg, 0.1 mmol) and Huenigs Base (20 μl, 0.1 mmol) were dissolved in 1 mL dry DMF and stirred for 12 hours at 85° C. The crude reaction mixture was purified by reversed phase chromatography to provide 4-(2,4-Dichloro-phenyl)-2-[1-(2,4-dichloro-phenyl)-cyclopropyl]-5-methyl-1H-imidazole. (3.9 mg, 9.5%). ESI MS m/z=411.2, 413.2.

reactant | 2-Bromo-1-(2,4-dichloro-phenyl)-propane-1-one | 0.1 mmol, 28.2 mg | BrC(C(=O)C1=C(C=C(C=C1)Cl)Cl)C | C9H7BrCl2O
reactant | 1-(2,4-Dichloro-phenyl)-cyclopropanecarboxamidine | 0.1 mmol, 22.9 mg | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=N)N | C10H10Cl2N2
reactant | Huenigs Base | 0.1 mmol, 20 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(2,4-Dichloro-phenyl)-2-[1-(2,4-dichloro-phenyl)-cyclopropyl]-5-methyl-1H-imidazole | ClC1=C(C=CC(=C1)Cl)C=1N=C(NC1C)C1(CC1)C1=C(C=C(C=C1)Cl)Cl | C19H14Cl4N2
